US06211215B1
In substantially the same manner as in Working Example 72, 1-[4-(4-hydroxyphenyl)butyl]imidazole was allowed to react with 5-chloromethyl-2-(2-thienyl)benzoxazole to give 5-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(2-thienyl)benzoxazole. The yield was 81%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 130-131° C.

reactant | 1-[4-(4-hydroxyphenyl)butyl]imidazole | OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C13H16N2O
reactant | 5-chloromethyl-2-(2-thienyl)benzoxazole | ClCC=1C=CC2=C(N=C(O2)C=2SC=CC2)C1 | C12H8ClNOS
product | 5-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(2-thienyl)benzoxazole | yield was 81% | N1(C=NC=C1)CCCCC1=CC=C(OCC=2C=CC3=C(N=C(O3)C=3SC=CC3)C2)C=C1 | C25H23N3O2S
